US04118572
Preparation of 4-{4-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-2-butyn-1-ol hydrochloride
6 G. of 1-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine are dissolved in 65 ml. of ethanol. Subsequently, there are added successively 2.7 g. of sodium carbonate, 0.27 g. of sodium iodide. Then, a solution of 2.4 g. of 4-chloro-2-butyn-1-ol in 15 ml. of ethanol is added dropwise. The mixture is stirred for 16 hours at room temperature and thereafter for 3.5 hours at 40° C. The ethanol is then evaporated under reduced pressure and the residue partitioned between water and chloroform. The phases are separated, the aqueous solution is extracted with water and the chloroform extracts are washed with water. The solvent is evaporated, the residue dissolved in benzene and chromatographed over 140 g. of silica gel. Elution is carried out first with benzene. The 4-{4-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-2-butyn-1-ol is eluted with benzene/methanol (99:1), which is obtained as an oil and is converted to the hydrochloride using the calculated amount of hydrogen chloride in ethanol. The hydrochloride crystallizes by the addition of ether; melting point 194°-195° C. (with decomposition).

reactant | 1-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-piperazine | ClC1=CC2=C(OC3=C(C(C2)N2CCNCC2)C=CC=C3)C=C1 | C18H19ClN2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
reactant | 4-chloro-2-butyn-1-ol | ClCC#CCO | C4H5ClO
reactant | hydrochloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-{4-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-1-piperazinyl}-2-butyn-1-ol hydrochloride | Cl.ClC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)CC#CCO)C=CC=C3)C=C1 | InChI=1S/C22H23ClN2O2.ClH/c23-18-7-8-21-17(15-18)16-20(19-5-1-2-6-22(19)27-21)25-12-10-24(11-13-25)9-3-4-14-26;/h1-2,5-8,15,20,26H,9-14,16H2;1H
